US07635715B2
Step F: Preparation of N-((7-Trifluoromethyl-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycine
1,1-Dimethylethyl N-((7-trifluoromethyl-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycinate (1.29 g, 2.82 mmol) was stirred in TFA (3 mL, 40.4 mmol) at room temperature for 25 minutes. Water was added. The resulting precipitate was filtered and washed with water to give the desired product as a white solid (550 mg). MS (m/e)=400.1 (M+H)+. Calculated for C18H16F3NO6 399.09.

reactant | 1,1-Dimethylethyl N-((7-trifluoromethyl-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycinate | 2.82 mmol, 1.29 g | FC(C1=CC=C2C(=C(C(C3(CCOCC3)C2=C1)=O)C(=O)NCC(=O)OC(C)(C)C)O)(F)F | C22H24F3NO6
reactant | TFA | 40.4 mmol, 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | Water | O | H2O
product | N-((7-Trifluoromethyl-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycine | 550 mg | FC(C1=CC=C2C(=C(C(C3(CCOCC3)C2=C1)=O)C(=O)NCC(=O)O)O)(F)F | C18H16F3NO6
